US05216148
2.0 ml of 65% nitric acid were cautiously added dropwise to 7.1 ml of acetic anhydride at 0° C. This solution was added to a solution of 3.14 g of 2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepine in 9.0 ml of acetic anhydride and 2.8 ml of glacial acetic acid. The reaction mixture was left to stand at room temperature for 3 days and then poured on ice, washed in succession with water, soda solution and water, dried and evaporated. Recrystallization from ethyl acetate/hexane yielded 3.39 g of 2,3,4,5-tetrahydro-1,5,5-trimethyl-7-nitro-2-oxo-1H-1-benzazepine, 113°-115° C.

reactant | nitric acid | 2.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,3,4,5-tetrahydro-1,5,5-trimethyl-2-oxo-1H-1-benzazepine | 3.14 g | CN1C(CCC(C2=C1C=CC=C2)(C)C)=O | C13H17NO
solvent | acetic anhydride | 9.0 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 2.8 ml | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | 7.1 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,3,4,5-tetrahydro-1,5,5-trimethyl-7-nitro-2-oxo-1H-1-benzazepine | 3.39 g | CN1C(CCC(C2=C1C=CC(=C2)[N+](=O)[O-])(C)C)=O | C13H16N2O3
